US04550103
A mixture of 46.66 g (0.178 mole) of N-(2-hydroxyethyl)-5-oxo-1-(phenylmethyl)-3-pyrrolidinecarboxamide in 200 ml of tetrahydrofuran was added dropwise to a slurry of 20.25 g (0.534 mole) of lithium aluminum hydride in 150 ml tetrahydrofuran. The reaction was refluxed three hours, then cooled in an ice bath. The work up consisted of sequential addition of 20 ml water, 20 ml 15% sodium hydroxide then 60 ml water. The reaction was filtered and the precipitate washed with ethanol. The filtrate was concentrated at reduced pressure, the residue taken up in dichloromethane, dried over magnesium sulfate, and the solvent removed at reduced pressure to give 32.31 g of 2-[[[1-(phenylmethyl)-3-pyrrolidinyl]methyl]amino]ethanol as an oil.

reactant | N-(2-hydroxyethyl)-5-oxo-1-(phenylmethyl)-3-pyrrolidinecarboxamide | 0.178 mole, 46.66 g | OCCNC(=O)C1CN(C(C1)=O)CC1=CC=CC=C1 | C14H18N2O3
reactant | lithium aluminum hydride | 0.534 mole, 20.25 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 20 ml | O | H2O
reactant | sodium hydroxide | 20 ml | [OH-].[Na+]
reactant | water | 60 ml | O | H2O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 2-[[[1-(phenylmethyl)-3-pyrrolidinyl]methyl]amino]ethanol | 32.31 g | C1(=CC=CC=C1)CN1CC(CC1)CNCCO | C14H22N2O
